* Metelics SPICE Components
* These components were derived from the SPICE information on their web pages.
* bss

*GaAs Schottky Diode
.model MGS801 d (IS=8.65n N=1.4 RS=1.3 CJO=.045p VJ=0.7 M=0.25 XTI=2 EG=0.84 BV=5
+ IBV=10u TT=3p)

*Beam Lead GaAs Schottky Diode
.model MGS901 d (IS=8.65n N=1.4 RS=1.3 CJO=.045p VJ=0.7 M=0.25 XTI=2 EG=0.84 BV=5
+ IBV=10u TT=3p)

*GaAs Schottky Diode
.model MGS802 d (IS=8.65n N=1.4 RS=1.3 CJO=.045p VJ=0.7 M=0.25 XTI=2 EG=0.84 BV=5
+ IBV=10u TT=3p)

*Beam Lead GaAs Schottky Diode
.model MGS902 d (IS=8.65n N=1.4 RS=1.3 CJO=.045p VJ=0.7 M=0.25 XTI=2 EG=0.84 BV=5
+ IBV=10u TT=3p)

*GaAs Schottky Diode
.model MGS803 d (IS=8.65n N=1.4 RS=1.3 CJO=.045p VJ=0.7 M=0.25 XTI=2 EG=0.84 BV=5
+ IBV=10u TT=3p)

*Beam Lead GaAs Schottky Diode
.model MGS903 d (IS=8.65n N=1.4 RS=1.3 CJO=.045p VJ=0.7 M=0.25 XTI=2 EG=0.84 BV=5
+ IBV=10u TT=3p)

*Zero Bias Schottky Diode
.subckt MSS20046 1 2
D1 4 1 DR 
D2 2 4 DCUT
D3 1 3 DF
D4 3 2 DCUT
CJ 1 2 0.1PF
.MODEL DR D (N=0.09 RS=950 IS=5E-4)
.MODEL DF D (IS=19E-6 N=1 RS=94)
.MODEL DCUT D (N=0.01 RS=0.001 IS=7E-7)
.ends MSS20046

*Zero Bias Schottky Diode
.subckt MSS20047 1 2
D1 4 1 DR 
D2 2 4 DCUT
D3 1 3 DF
D4 3 2 DCUT
CJ 1 2 0.1PF
.MODEL DR D (N=0.09 RS=950 IS=5E-4)
.MODEL DF D (IS=19E-6 N=1 RS=94)
.MODEL DCUT D (N=0.01 RS=0.001 IS=7E-7)
.ends MSS20047

*Zero Bias Schottky Diode
.subckt MSS20050 1 2
D1 4 1 DR 
D2 2 4 DCUT
D3 1 3 DF
D4 3 2 DCUT
CJ 1 2 0.15PF
.MODEL DR D (N=0.09 RS=950 IS=5E-4)
.MODEL DF D (IS=19E-6 N=1 RS=94)
.MODEL DCUT D (N=0.01 RS=0.001 IS=7E-7)
.ends MSS20050

*Zero Bias Schottky Diode
.subckt MSS20051 1 2
D1 4 1 DR 
D2 2 4 DCUT
D3 1 3 DF
D4 3 2 DCUT
CJ 1 2 0.15PF
.MODEL DR D (N=0.09 RS=950 IS=5E-4)
.MODEL DF D (IS=19E-6 N=1 RS=94)
.MODEL DCUT D (N=0.01 RS=0.001 IS=7E-7)
.ends MSS20051

*Zero Bias Schottky Diode
.subckt MSS20140 1 2
D1 4 1 DR 
D2 2 4 DCUT
D3 1 3 DF
D4 3 2 DCUT
CJ 1 2 0.08PF
.MODEL DR D (N=0.09 RS=950 IS=5E-4)
.MODEL DF D (IS=19E-6 N=1 RS=94)
.MODEL DCUT D (N=0.01 RS=0.001 IS=7E-7)
.ends MSS20140

*Zero Bias Schottky Diode
.subckt MSS20141 1 2
D1 4 1 DR 
D2 2 4 DCUT
D3 1 3 DF
D4 3 2 DCUT
CJ 1 2 0.08PF
.MODEL DR D (N=0.09 RS=950 IS=5E-4)
.MODEL DF D (IS=19E-6 N=1 RS=94)
.MODEL DCUT D (N=0.01 RS=0.001 IS=7E-7)
.ends MSS20141

*Zero Bias Schottky Diode
.subckt MSS20142 1 2
D1 4 1 DR 
D2 2 4 DCUT
D3 1 3 DF
D4 3 2 DCUT
CJ 1 2 0.1PF
.MODEL DR D (N=0.09 RS=950 IS=5E-4)
.MODEL DF D (IS=19E-6 N=1 RS=94)
.MODEL DCUT D (N=0.01 RS=0.001 IS=7E-7)
.ends MSS20142

*Zero Bias Schottky Diode
.subckt MSS20143 1 2
D1 4 1 DR 
D2 2 4 DCUT
D3 1 3 DF
D4 3 2 DCUT
CJ 1 2 0.1PF
.MODEL DR D (N=0.09 RS=950 IS=5E-4)
.MODEL DF D (IS=19E-6 N=1 RS=94)
.MODEL DCUT D (N=0.01 RS=0.001 IS=7E-7)
.ends MSS20143

*Zero Bias Schottky Diode
.subckt MSS20145 1 2
D1 4 1 DR 
D2 2 4 DCUT
D3 1 3 DF
D4 3 2 DCUT
CJ 1 2 0.12PF
.MODEL DR D (N=0.09 RS=950 IS=5E-4)
.MODEL DF D (IS=19E-6 N=1 RS=94)
.MODEL DCUT D (N=0.01 RS=0.001 IS=7E-7)
.ends MSS20145

*Zero Bias Schottky Diode
.subckt MSS20146 1 2
D1 4 1 DR 
D2 2 4 DCUT
D3 1 3 DF
D4 3 2 DCUT
CJ 1 2 0.12PF
.MODEL DR D (N=0.09 RS=950 IS=5E-4)
.MODEL DF D (IS=19E-6 N=1 RS=94)
.MODEL DCUT D (N=0.01 RS=0.001 IS=7E-7)
.ends MSS20146

*Schottky Diode
.subckt MSS30046 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=26.05E-9 N=1.0 RS=10.0 CJO=0.10E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.5 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=33.5)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS30046

*Schottky Diode
.subckt MSS30142 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=26.05E-9 N=1.0 RS=10.0 CJO=0.10E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.5 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=33.5)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS30142

*Schottky Diode
.subckt MSS30242 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=26.05E-9 N=1.0 RS=10.0 CJO=0.10E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.5 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=33.5)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS30242

*Schottky Diode
.subckt MSS30346 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=26.05E-9 N=1.0 RS=10.0 CJO=0.10E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.5 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=33.5)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS30346

*Schottky Diode
.subckt MSS30442 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=26.05E-9 N=1.0 RS=10.0 CJO=0.10E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.5 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=33.5)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS30442

*Schottky Diode
.subckt MSS30B46 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=26.05E-9 N=1.0 RS=10.0 CJO=0.10E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.5 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=33.5)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS30B46

*Schottky Diode
.subckt MSS30CR46 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=26.05E-9 N=1.0 RS=10.0 CJO=0.10E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.5 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=33.5)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS30CR46

*Schottky Diode
.subckt MSS30PCR46 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=26.05E-9 N=1.0 RS=10.0 CJO=0.10E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.5 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=33.5)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS30PCR46

*Schottky Diode
.subckt MSS30050 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=48.25E-9 N=1.0 RS=6.0 CJO=0.22E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.5 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=33.5)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS30050

*Schottky Diode
.subckt MSS30148 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=48.25E-9 N=1.0 RS=6.0 CJO=0.22E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.5 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=33.5)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS30148

*Schottky Diode
.subckt MSS30248 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=48.25E-9 N=1.0 RS=6.0 CJO=0.22E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.5 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=33.5)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS30248

*Schottky Diode
.subckt MSS30448 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=48.25E-9 N=1.0 RS=6.0 CJO=0.22E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.5 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=33.5)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS30448

*Schottky Diode
.subckt MSS30154 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=98.5E-9 N=1.0 RS=3.0 CJO=0.22E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.5 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=33.5)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS30154

*Schottky Diode
.subckt MSS30254 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=98.5E-9 N=1.0 RS=3.0 CJO=0.22E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.5 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=33.5)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS30254

*Schottky Diode
.subckt MSS30454 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=98.5E-9 N=1.0 RS=3.0 CJO=0.22E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.5 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=33.5)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS30454

*Schottky Diode
.subckt MSS30B53 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=98.5E-9 N=1.0 RS=3.0 CJO=0.22E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.5 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=33.5)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS30B53

*Schottky Diode
.subckt MSS30CR53 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=98.5E-9 N=1.0 RS=3.0 CJO=0.22E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.5 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=33.5)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS30CR53

*Schottky Diode
.subckt MSS30PCR53 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=98.5E-9 N=1.0 RS=3.0 CJO=0.22E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.5 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=33.5)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS30PCR53

*Schottky Diode
.subckt MSS39045 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=14.53E-9 N=1.0 RS=60.0 CJO=0.085E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.65 TT=3.0E-12)
.MODEL DR D (IS=34.8E-9 N=33.96 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS39045

*Schottky Diode
.subckt MSS39048 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=20E-9 N=1.0 RS=60.0 CJO=0.125E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.65 TT=3.0E-12)
.MODEL DR D (IS=34.8E-9 N=33.96 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS39048

*Schottky Diode
.subckt MSS39148 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=20E-9 N=1.0 RS=60.0 CJO=0.085E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.65 TT=3.0E-12)
.MODEL DR D (IS=35.9E-9 N=23.93 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS39148

*Schottky Diode
.subckt MSS39152 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=27.55E-9 N=1.0 RS=60.0 CJO=0.15E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.65 TT=3.0E-12)
.MODEL DR D (IS=35.9E-9 N=23.93 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS39152

*Schottky Diode
.subckt MSS40045 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=1.5E-9 N=1.0 RS=7.0 CJO=0.09E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.6 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS40045

*Schottky Diode
.subckt MSS40341 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=1.5E-9 N=1.0 RS=7.0 CJO=0.09E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.6 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS40341

*Schottky Diode
.subckt MSS40048 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=2.76E-9 N=1.0 RS=7.0 CJO=0.115E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.6 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS40048

*Schottky Diode
.subckt MSS40148 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=2.76E-9 N=1.0 RS=7.0 CJO=0.115E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.6 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS40148

*Schottky Diode
.subckt MSS40248 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=2.76E-9 N=1.0 RS=7.0 CJO=0.115E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.6 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS40248

*Schottky Diode
.subckt MSS40448 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=2.76E-9 N=1.0 RS=7.0 CJO=0.115E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.6 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS40448

*Schottky Diode
.subckt MSS40141 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=1.75E-9 N=1.0 RS=10.0 CJO=0.06E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.6 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS40141

*Schottky Diode
.subckt MSS40244 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=1.75E-9 N=1.0 RS=10.0 CJO=0.06E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.6 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS40244

*Schottky Diode
.subckt MSS40155 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=4.76E-9 N=1.0 RS=5.0 CJO=0.25E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.6 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS40155

*Schottky Diode
.subckt MSS40255 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=4.76E-9 N=1.0 RS=5.0 CJO=0.25E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.6 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS40255

*Schottky Diode
.subckt MSS40455 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=4.76E-9 N=1.0 RS=5.0 CJO=0.25E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.6 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS40455

*Schottky Diode
.subckt MSS40B46 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=.5E-9 N=1.0 RS=14.0 CJO=0.0975E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.6 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS40B46

*Schottky Diode
.subckt MSS40CR46 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=.5E-9 N=1.0 RS=14.0 CJO=0.0975E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.6 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS40CR46

*Schottky Diode
.subckt MSS40PCR46 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=.5E-9 N=1.0 RS=14.0 CJO=0.0975E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.6 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS40PCR46

*Schottky Diode
.subckt MSS40B53 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=1.25E-9 N=1.0 RS=7.5 CJO=0.175E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.6 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS40B53

*Schottky Diode
.subckt MSS40CR53 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=1.25E-9 N=1.0 RS=7.5 CJO=0.175E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.6 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS40CR53

*Schottky Diode
.subckt MSS40PCR53 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=1.25E-9 N=1.0 RS=7.5 CJO=0.175E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.6 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS40PCR53

*Schottky Diode
.subckt MSS50048 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=125p N=1.0 RS=7 CJO=0.115E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.76 TT=3.0E-12)
.MODEL DR D (IS=35.9E-9 N=23.93 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS50048

*Schottky Diode
.subckt MSS50062 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=102.5p N=1.0 RS=2 CJO=0.5E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.76 TT=3.0E-12)
.MODEL DR D (IS=34.8E-9 N=33.96 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS50062

*Schottky Diode
.subckt MSS50146 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=73p N=1.0 RS=9 CJO=0.07E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.76 TT=3.0E-12)
.MODEL DR D (IS=34.8E-9 N=33.96 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS50146

*Schottky Diode
.subckt MSS50244 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=73p N=1.0 RS=6.5 CJO=0.2E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.76 TT=3.0E-12)
.MODEL DR D (IS=34.8E-9 N=33.96 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS50244

*Schottky Diode
.subckt MSS50341 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=73p N=1.0 RS=6.5 CJO=0.2E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.76 TT=3.0E-12)
.MODEL DR D (IS=34.8E-9 N=33.96 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS50341

*Schottky Diode
.subckt MSS50448 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=73p N=1.0 RS=6.5 CJO=0.2E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.76 TT=3.0E-12)
.MODEL DR D (IS=34.8E-9 N=33.96 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS50448

*Schottky Diode
.subckt MSS50B46 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=65p N=1.0 RS=11.5 CJO=0.0975E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.76 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS50B46

*Schottky Diode
.subckt MSS50CR46 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=65p N=1.0 RS=11.5 CJO=0.0975E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.76 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS50CR46

*Schottky Diode
.subckt MSS50PCR46 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=65p N=1.0 RS=11.5 CJO=0.0975E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.76 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS50PCR46

*Schottky Diode
.subckt MSS50B53 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=125p N=1.0 RS=7.5 CJO=0.175E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.76 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS50B53

*Schottky Diode
.subckt MSS50CR53 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=125p N=1.0 RS=7.5 CJO=0.175E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.76 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS50CR53

*Schottky Diode
.subckt MSS50PCR53 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=125p N=1.0 RS=7.5 CJO=0.175E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.76 TT=3.0E-12)
.MODEL DR D (IS=37.4E-9 N=20.71 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS50PCR53

*Schottky Diode
.subckt MSS60144 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=163.7e-15 N=1.0 RS=15 CJO=0.08E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.88 TT=3.0E-12)
.MODEL DR D (IS=35.9E-9 N=23.93 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS60144

*Schottky Diode
.subckt MSS60244 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=163.7e-15 N=1.0 RS=15 CJO=0.08E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.88 TT=3.0E-12)
.MODEL DR D (IS=35.9E-9 N=23.93 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS60244

*Schottky Diode
.subckt MSS60341 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=163.7e-15 N=1.0 RS=15 CJO=0.08E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.88 TT=3.0E-12)
.MODEL DR D (IS=35.9E-9 N=23.93 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS60341

*Schottky Diode
.subckt MSS60444 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=163.7e-15 N=1.0 RS=15 CJO=0.08E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.88 TT=3.0E-12)
.MODEL DR D (IS=35.9E-9 N=23.93 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS60444

*Schottky Diode
.subckt MSS60148 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=131.4e-15 N=1.0 RS=10 CJO=0.12E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.88 TT=3.0E-12)
.MODEL DR D (IS=35.9E-9 N=23.93 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS60148

*Schottky Diode
.subckt MSS60248 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=131.4e-15 N=1.0 RS=10 CJO=0.12E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.88 TT=3.0E-12)
.MODEL DR D (IS=35.9E-9 N=23.93 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS60248

*Schottky Diode
.subckt MSS60448 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=131.4e-15 N=1.0 RS=10 CJO=0.12E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.88 TT=3.0E-12)
.MODEL DR D (IS=35.9E-9 N=23.93 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS60448

*Schottky Diode
.subckt MSS60153 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=112.8e-15 N=1.0 RS=5 CJO=0.2E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.88 TT=3.0E-12)
.MODEL DR D (IS=35.9E-9 N=23.93 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS60153

*Schottky Diode
.subckt MSS60253 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=112.8e-15 N=1.0 RS=5 CJO=0.2E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.88 TT=3.0E-12)
.MODEL DR D (IS=35.9E-9 N=23.93 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS60253

*Schottky Diode
.subckt MSS60453 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=112.8e-15 N=1.0 RS=5 CJO=0.2E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.88 TT=3.0E-12)
.MODEL DR D (IS=35.9E-9 N=23.93 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS60453

*Schottky Diode
.subckt MSS60B46 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=1.1p N=1.0 RS=15 CJO=0.0925E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.88 TT=3.0E-12)
.MODEL DR D (IS=35.9E-9 N=23.93 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS60B46

*Schottky Diode
.subckt MSS60B53 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=2.5p N=1.0 RS=10 CJO=0.175E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.88 TT=3.0E-12)
.MODEL DR D (IS=35.9E-9 N=23.93 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS60B53

*Schottky Diode
.subckt MSS60CR46 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=4.5p N=1.0 RS=15 CJO=0.0925E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.88 TT=3.0E-12)
.MODEL DR D (IS=35.9E-9 N=23.93 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS60CR46

*Schottky Diode
.subckt MSS60PCR46 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=4.5p N=1.0 RS=15 CJO=0.0925E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.88 TT=3.0E-12)
.MODEL DR D (IS=35.9E-9 N=23.93 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS60PCR46

*Schottky Diode
.subckt MSS60CR53 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=6.5p N=1.0 RS=10 CJO=0.175E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.88 TT=3.0E-12)
.MODEL DR D (IS=35.9E-9 N=23.93 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS60CR53

*Schottky Diode
.subckt MSS60PCR53 1 2
D1 1 2 DF
D2 3 1 DI
D3 2 3 DR
.MODEL DF D (IS=6.5p N=1.0 RS=10 CJO=0.175E-12 VJ=0.7 M=0.2 XTI=2.0 EG=0.88 TT=3.0E-12)
.MODEL DR D (IS=35.9E-9 N=23.93 XTI=4.0 EG=11)
.MODEL DI D (N=0.05 RS=0.001 CJO=0.001E-12 XTI=0.0 EG=0.0)
.ends MSS60PCR53

*Planar Tunnel Diode
.SUBCKT MBD1057 1 2        ;1 - Anode   2 - Cathode
D1 1 2 DF
C1 1 2 0.3E-12
E1 6 0 1 2 1.0 
R1 5 6 100
D2 5 0 DCUT
G1 1 2 5 0 -29.263E-6 7.3533E-3 -83.688E-3 0.25456
.MODEL DF D (IS=260.1E-9 N=2.65 CJO=0.001E-12)
.MODEL DCUT D (N=0.1 RS=0.001 IS=1.0E-25 CJO=0.001E-12)
.ENDS MBD1057

*Planar Tunnel Diode
.SUBCKT MBD2057 1 2        ;1 - Anode   2 - Cathode
D1 1 2 DF
C1 1 2 0.3E-12
E1 6 0 1 2 1.0 
R1 5 6 100
D2 5 0 DCUT
G1 1 2 5 0 -.40255E-6 9.204E-3 -112.173E-3 0.32731
.MODEL DF D (IS=260.1E-9 N=2.65 CJO=0.001E-12)
.MODEL DCUT D (N=0.1 RS=0.001 IS=1.0E-25 CJO=0.001E-12)
.ENDS MBD2057

*Planar Tunnel Diode
.SUBCKT MBD3057 1 2        ;1 - Anode   2 - Cathode
D1 1 2 DF
C1 1 2 0.3E-12
E1 6 0 1 2 1.0 
R1 5 6 100
D2 5 0 DCUT
G1 1 2 5 0 -71.712E-6 13.058E-3 -124.09E-3 0.28390
.MODEL DF D (IS=260.1E-9 N=2.65 CJO=0.001E-12)
.MODEL DCUT D (N=0.1 RS=0.001 IS=1.0E-25 CJO=0.001E-12)
.ENDS MBD3057

*Planar Tunnel Diode
.SUBCKT MBD4057 1 2        ;1 - Anode   2 - Cathode
D1 1 2 DF
C1 1 2 0.3E-12
E1 6 0 1 2 1.0 
R1 5 6 100
D2 5 0 DCUT
G1 1 2 5 0 -112.66E-6 17.831E-3 -169.14E-3 0.38706
.MODEL DF D (IS=260.1E-9 N=2.65 CJO=0.001E-12)
.MODEL DCUT D (N=0.1 RS=0.001 IS=1.0E-25 CJO=0.001E-12)
.ENDS MBD4057

*Planar Tunnel Diode
.SUBCKT MBD5057 1 2        ;1 - Anode   2 - Cathode
D1 1 2 DF
C1 1 2 0.3E-12
E1 6 0 1 2 1.0 
R1 5 6 100
D2 5 0 DCUT
G1 1 2 5 0 -128.86E-6 20.645E-3 -164.36E-3 0.25235
.MODEL DF D (IS=260.1E-9 N=2.65 CJO=0.001E-12)
.MODEL DCUT D (N=0.1 RS=0.001 IS=1.0E-25 CJO=0.001E-12)
.ENDS MBD5057

